US06831175B2
3-bromo-5-[(E)-2-pyridin-4-ylvinyl]pyridine
A solution of 3,5-dibromopyridine (5.56 g, 23.4 mmol), 4-vinylpyridine (5.1 mL), palladium acetate (1.05 g), tri-o-tolylphosphine (5.00 g) and triethylamine (33 mL) in acetonitrile (100 mL) was heated overnight at 80° C. and concentrated. The residue was partitioned between 5% NaHCO3 and dichloromethane and filtered. The filtrate was separated and the organic layer was washed with water, dried (MgSO4), filtered, and concentrated. The concentrate was purified by flash column chromatography on silica gel with 4% methanol/dichloromethane to provide the desired product (2.18 g, 36%). (DCI/NH3) m/e 261, 263 (M+H)+.

reactant | 3,5-dibromopyridine | 23.4 mmol, 5.56 g | BrC=1C=NC=C(C1)Br | C5H3Br2N
reactant | 4-vinylpyridine | 5.1 mL | C(=C)C1=CC=NC=C1 | C7H7N
reactant | tri-o-tolylphosphine | 5.00 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | triethylamine | 33 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
catalyst | palladium acetate | 1.05 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 3-bromo-5-[(E)-2-pyridin-4-ylvinyl]pyridine | 2.18 g, 36% | BrC=1C=NC=C(C1)\C=C\C1=CC=NC=C1 | C12H9BrN2
